US05446144
1.(A) 2,2,6,6-Tetramethyl-4-butylaminopiperidine
155 g of 2,2,6,6-tetramethyl-4-piperidone and 80.0 g of butylamine were dissolved in 300 ml of methanol, and then 2.0 g of platinum oxide were added to the resulting'solution, after which the solution was shaken undera pressure of 3 atmospheres of hydrogen in a medium-pressure hydrogenation apparatus at room temperature for 5 hours. At the end of this time, the platinum catalyst was filtered off, and the solvent was removed from the filtrate by distillation under reduced pressure, after which the residue was further purified by distillation under reduced pressure, to yield 201.5 g of the title compound as an oil boiling at 100° to 101° C./5 mmHg (667 Pa).

reactant | 2,2,6,6-tetramethyl-4-piperidone | 155 g | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
reactant | butylamine | 80.0 g | C(CCC)N | C4H11N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
catalyst | platinum oxide | 2.0 g | [Pt]=O
product | 2,2,6,6-Tetramethyl-4-butylaminopiperidine | 201.5 g | CC1(NC(CC(C1)NCCCC)(C)C)C | C13H28N2
